US07645753B2
3-(2-Hydroxy-ethoxy)-4-isopropoxy-benzaldehyde
The title compound was prepared analogously to intermediate 2 (4-methoxy-3-propoxy-benzaldehyde) by reaction of 3-hydroxy-4-isopropoxy-benzaldehyde ([CAS RN 94283-73-5], F. R. Hewgill, M. C. Pass Australian J. Chem. 1985, 38, 537-554) with 2-bromo-ethanol in DMF using K2CO3 as base. MS (ISP): 224.2 [M+H]+.

reactant | 3-hydroxy-4-isopropoxy-benzaldehyde | OC=1C=C(C=O)C=CC1OC(C)C | C10H12O3
reactant | 2-bromo-ethanol | BrCCO | C2H5BrO
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-(2-Hydroxy-ethoxy)-4-isopropoxy-benzaldehyde | OCCOC=1C=C(C=O)C=CC1OC(C)C | C12H16O4
